US08466163B2
3,5-Dimethoxy-4-(4-methoxy-benzyloxy)-pyridine (ν):
To an ice-cooled suspension of sodium hydride (60% dispersion in mineral oil, 650 mg, 16.3 mmol) in dry DMF (10 ml) was added 4-methoxybenzyl alcohol (2.24 g, 16.3 mmol) drop-wise via syringe. Vigorous evolution of hydrogen was observed and the reaction was allowed to warm to room temperature and stirred for 15 minutes. 4-Bromo-3,5-dimethoxypyridine (1.17 g, 5.41 mmol) was added and the reaction heated to 90° C. overnight. After cooling, only trace starting material could be detected by TLC analysis and the reaction was quenched with water and extracted with EtOAc. The organic layer was washed with water 3 times then brine, dried over MgSO4 and concentrated onto silica-gel under reduced pressure. The solid residue was purified by flash chromatography (silica-gel, eluted sequentially with EtOAc:hexanes, 2:1, 1:0) to give the product as a tan solid (865 mg, 58%). 1H—NMR (300 MHz, CDCl3) δ 7.96 (s, 2H), 7.33 (d, J=8.5 Hz, 2H), 6.84 (d, J=8.5 Hz, 2H), 5.11 (s, 2H), 3.89 (s, 6H), 3.78 (s, 3H). MS (ES+) m/z 276.1 (M+H+).

reactant | sodium hydride | 16.3 mmol, 650 mg | [H-].[Na+]
reactant | 4-methoxybenzyl alcohol | 16.3 mmol, 2.24 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | hydrogen | [H][H] | H2
reactant | 4-Bromo-3,5-dimethoxypyridine | 5.41 mmol, 1.17 g | BrC1=C(C=NC=C1OC)OC | C7H8BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethoxy-4-(4-methoxy-benzyloxy)-pyridine | 865 mg, 58% | COC=1C=NC=C(C1OCC1=CC=C(C=C1)OC)OC | C15H17NO4
